US06013198
Grignard's reagent prepared from 3-fluorobromobenzene (110 mmol), magnesium (110 mmol), and 100 ml of tetrahydrofuran (hereinafter referred to as THF) was added dropwise to a mixture prepared by adding iron acetylacetone (5 mmol) and 300 ml of dried toluene to the acid chloride (100 mmol) at a temperature lower than -50° C. and stirred for 1 hour at the same temperature. The reaction product thus obtained was added in 200 ml of 6M hydrochloric acid and then extracted with toluene (100 ml×2). Extract was dried with anhydrous magnesium sulfate, the solvent was distilled off, and the residue thus obtained was recrystallized from 50 ml of ethanol to obtain 2-fluoro-4-(1-oxo-2-(4-propylcyclohexyl)ethyl)benzene (75 mmol).

reactant | 3-fluorobromobenzene | 110 mmol | FC=1C=C(C=CC1)Br | C6H4BrF
reactant | magnesium | 110 mmol | [Mg] | Mg
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | hydrochloric acid | 6M, 200 ml | Cl | ClH
catalyst | iron acetylacetone | 5 mmol | C(C)(=O)CC(C)=O.[Fe]
product | 2-fluoro-4-(1-oxo-2-(4-propylcyclohexyl)ethyl)benzene | 75 mmol | FC1=CC=CC(=C1)C(CC1CCC(CC1)CCC)=O | C17H23FO
